US09216972B2
To (E)-ethyl 2-(ethoxymethylene)-4,4,4-trifluoro-3-oxobutanoate (0.441 g, 1.835 mmol) in ethanol (2 mL) was added diisopropylethylamine (0.427 mL, 2.447 mmol) followed by 5-fluoro-2-hydrazinylpyridine, hydrofluoride (0.3 g, 2.039 mmol) dissolved in 1 mL of ethanol (slightly exothermic). The reaction mixture was heated at 80° C. for 1 h. The reaction mixture was concentrated under reduced pressure, dissolved in dichloromethane (2 mL) and subjected to column chromatography using an ISCO setup (40 g, RediSep® silica gel column). The desired fractions were collected and concentrated to yield ethyl 1-(5-fluoropyridin-2-yl)-5-(trifluoromethyl)-1H-pyrazole-4-carboxylate (0.165 g, 27%) as a white solid. LC/MS M+1=304.

reactant | (E)-ethyl 2-(ethoxymethylene)-4,4,4-trifluoro-3-oxobutanoate | 1.835 mmol, 0.441 g | C(C)O\C=C(\C(=O)OCC)/C(C(F)(F)F)=O | C9H11F3O4
reactant | diisopropylethylamine | 2.447 mmol, 0.427 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 5-fluoro-2-hydrazinylpyridine, hydrofluoride | 2.039 mmol, 0.3 g | F.FC=1C=CC(=NC1)NN
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | ethyl 1-(5-fluoropyridin-2-yl)-5-(trifluoromethyl)-1H-pyrazole-4-carboxylate | 0.165 g, 27% | FC=1C=CC(=NC1)N1N=CC(=C1C(F)(F)F)C(=O)OCC | C12H9F4N3O2
